US06156700
Preparation of 2'-Chloro-5'-nitro-2-methyl-2-carboethoxypropiophenone
To concentrated sulfuric acid (15.0 ml) at 5° C. is added 2'-chloro-2-methyl-2-carboethoxypropiophenone (4.00 g, 0.01570 mol) followed by dropwise addition of concentrated nitric acid (90%, 0.740 ml, 0.0204 mol). After stirring 5 minutes, the mixture is poured onto ice and extracted with ethyl acetate. The organic layers are washed with saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford the title compound as a yellow oil (3.90 g, 83.0%) which is identified by NMR spectral analysis.

reactant | sulfuric acid | 15.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2'-chloro-2-methyl-2-carboethoxypropiophenone | 0.01570 mol, 4.00 g | ClC1=C(C=CC=C1)C(C(C)(C(=O)OCC)C)=O | C13H15ClO3
reactant | nitric acid | 0.0204 mol, 0.740 ml | [N+](=O)(O)[O-] | HNO3
product | 2'-Chloro-5'-nitro-2-methyl-2-carboethoxypropiophenone | 3.90 g, 83.0% | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(C(C)(C(=O)OCC)C)=O | C13H14ClNO5
